* c:\users\jagad\desktop\esim\sasi\sasi.cir

.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__inductors.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__linear.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pd2nw_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__pnp.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__diode_pw2nd_11v0.model.spice"
.include "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130_fd_pr__model__r+c.model.spice"
.lib "C:\FOSSEE\eSim\library\sky130_fd_pr\models\sky130.lib.spice" tt
xsc4 output net-_sc1-pad3_ gnd gnd sky130_fd_pr__nfet_01v8 M=1 L=1
xsc1 input net-_sc1-pad2_ net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__nfet_01v8 M=1 L=1
xsc3 net-_sc1-pad3_ output gnd gnd sky130_fd_pr__nfet_01v8 M=1 L=1
xsc6 output net-_sc1-pad2_ net-_sc6-pad3_ net-_sc6-pad3_ sky130_fd_pr__nfet_01v8 M=1 L=1
xsc2 net-_sc2-pad1_ output net-_sc1-pad3_ net-_sc1-pad3_ sky130_fd_pr__pfet_01v8 M=1 L=1
xsc5 net-_sc2-pad1_ net-_sc1-pad3_ output output sky130_fd_pr__pfet_01v8 M=1 L=1
v2 net-_sc2-pad1_ gnd  dc 5
v1  net-_sc1-pad2_ gnd pulse(0 2 0.1m 0.1m 0.1m 0.1 2)
v3  input gnd pulse(0 2 0.1m 0.1m 0.1m 1 2)
* u2  output plot_v1
* u1  input plot_v1
* s c m o d e
.tran 0.1e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(output)
plot v(input)
.endc
.end
